US05552427
Preparation of 3-(2-aminoimidazol-1-yl)-L-alanine methyl ester dihydrochloride:
3-(2-Dimethylaminomethyleneaminoimidazol-1-yl)-L-alanine methyl ester (470 mg) was suspended in 20% hydrochloric acid-methanol (40 ml), and the suspension was stirred at 55° C. for 6 days. The solvent was evaporated under reduced pressure, methanol was added to the residue, and the solvent was evaporated again. Methanol-ether was added to the residue, and the mixture was allowed to stand to precipitate colorless needles. The crystals were separated by filtration, washed with methanol followed by ether, and dried to give the title compound (292 mg).

reactant | 3-(2-Dimethylaminomethyleneaminoimidazol-1-yl)-L-alanine methyl ester | 470 mg | COC([C@@H](N)CN1C(=NC=C1)N=CN(C)C)=O | C10H17N5O2
reactant | hydrochloric acid methanol | 40 ml | Cl.CO
product | 3-(2-aminoimidazol-1-yl)-L-alanine methyl ester dihydrochloride | 292 mg | Cl.Cl.COC([C@@H](N)CN1C(=NC=C1)N)=O | InChI=1S/C7H12N4O2.2ClH/c1-13-6(12)5(8)4-11-3-2-10-7(11)9;;/h2-3,5H,4,8H2,1H3,(H2,9,10);2*1H/t5-;;/m0../s1
